US08383821B2
(R)-3′-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
(R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (10 mg, 0.018 mmol) was dissolved in trifluoroacetic acid (33% in dichloromethane, 1.5 mL). The resulting solution was stirred at room temperature for 1 h and concentrated. The crude salt was loaded onto an SCX cartridge in methanol. The cartridge was flushed with several volumes of methanol which was discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 7.2 mg (88%) as a colorless film. 1H NMR (500 MHz, CDCl3) δ ppm 7.73 (d, J=8.6 Hz, 2H), 7.64 (s, 1H), 7.55 (d, J=8.6 Hz, 2H), 7.38 (s, 2H), 7.20-7.35 (m, 4H), 7.16 (m, 1H), 4.29 (q, J=6.4 Hz, 1H), 3.46 (s, 1H), 3.33 (d, J=9.2 Hz, 1H), 3.25 (d, J=8.9 Hz, 1H), 2.90 (m, 2H), 2.73 (m, 2H), 2.00-2.25 (m, 2H), 1.80-1.99 (m, 2H), 1.35 (d, J=6.4 Hz, 3H). Mass spec.: 465.20 (MH)+. Accurate mass spec.: m/z 465.2136 [MH]+, Δ=3.8 ppm.

reactant | (R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.018 mmol, 10 mg | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)[C@@H](C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C33H35F3N2O3
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-3′-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | C1(=CC=CC=C1)C1(CCNCC1)CO[C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C28H27F3N2O
